#!/usr/bin/ngspice

.include "NE5532.lib"

.title Estagio de Potência

.param AIN=1

VI     K5       0        dc   0  ac      1       sin(0 {AIN} 1k)
VCC    VP       0        18 
VEE    VN       0        -18

R37    0        K5       22k

XIC7A  K5       IC7AOUT  VP   VN IC7AOUT NE5532
R39    IC7AOUT  K7       1R

XIC7B  K5       IC7BOUT  VP   VN IC7BOUT NE5532
R40    IC7BOUT  K7       1R

XIC8A  K5       IC8AOUT  VP   VN IC8AOUT NE5532
R41    IC8AOUT  K7       1R

XIC8B  K5       IC8BOUT  VP   VN IC8BOUT NE5532
R42    IC8BOUT  K7       1R

XIC9A  K5       IC9AOUT  VP   VN IC9AOUT NE5532
R43    IC9AOUT  K7       1R

XIC9B  K5       IC9BOUT  VP   VN IC9BOUT NE5532
R44    IC9BOUT  K7       1R

XIC10A K5       IC10AOUT VP   VN IC10AOUT NE5532
R45    IC10AOUT K7       1R

XIC10B K5       IC10BOUT VP   VN IC10BOUT NE5532
R46    IC10BOUT K7       1R

RL     K7       0        8R


.tran .01ms 20ms 10ms
.meas tran Vrms RMS V(K7)
.meas tran Pout PARAM='Vrms*Vrms/8'

.end



.control

foreach A 0.5 1 2 3 4 5
  alterparam AIN=$A
  reset
  run
  show Vrms Pout
  plot v(K7)
end

.endc
